US05145850
Production of 6-mercaptoimidazo[1,2-b]pyridazine
6-Chloroimidazo[1,2-b]pyridazine (13.5 g), 28 W/W% sodium methoxide-methanol solution (17.5 g) and thioacetic acid (7.0 g) were dissolved in 70 ml of methanol and this solution was heated at 150° C. in a sealed tube for 6 hours. The reaction mixture was cooled to room temperature and distilled to remove the organic solvent. The residue was washed three times with chloroform (50 ml), and the insoluble material was extracted six times with 50 ml of chloroform-methanol (1:1) solution. The combined extracts were distilled to remove the organic solvent. The precipitated crystals were collected by filtration, thereby obtaining 6-mercaptoimidazo[1,2-b]pyridazine (3.7 g).

reactant | 6-Chloroimidazo[1,2-b]pyridazine | 13.5 g | ClC=1C=CC=2N(N1)C=CN2 | C6H4ClN3
reactant | sodium methoxide methanol | 17.5 g | C[O-].[Na+].CO
reactant | thioacetic acid | 7.0 g | C(C)(=S)O | C2H4OS
solvent | methanol | 70 ml | CO | CH4O
product | 6-mercaptoimidazo[1,2-b]pyridazine | SC=1C=CC=2N(N1)C=CN2 | C6H5N3S
